US20010007873A1
A. 1-Cyclopropyl-3-benzyloxy-benzene
Cyclopropylmagnesium bromide (J.O.C., 57, 3499-3503, 1992) (formed in situ, 50 mmol in 35 ml of THF) was added via syringe to a stirred mixture of 1-bromo-3-benzyloxy-benzene (7.9 g, 30 mmol), [1,3-bis(diphenylphosphino)propane]nickel (II) dichloride (70 mg) and THF (35 ml).Upon completion of addition, the mixture was stirred at room temperature for 2 hours and then heated to reflux for 72 hours. The reaction mixture was cooled to room temperature and diluted with 100 ml of ethyl ether (Et2O). The resultant mixture was washed with 5% hydrochloric acid (HCl), brine then dried with magnesium sulfate (MgSO4) and concentrated in vacuo. The crude product was chromatographed on silica gel using hexanes: methylene chloride (5:1) to afford 4.0 g (36%) of the title compound.

reactant | Cyclopropylmagnesium bromide | 50 mmol, 35 ml | C1(CC1)[Mg]Br
reactant | 1-bromo-3-benzyloxy-benzene | 30 mmol, 7.9 g | BrC1=CC(=CC=C1)OCC1=CC=CC=C1 | C13H11BrO
reactant | THF | 35 ml | C1CCOC1 | C4H8O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
catalyst | [1,3-bis(diphenylphosphino)propane]nickel (II) dichloride | 70 mg | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 1-Cyclopropyl-3-benzyloxy-benzene | 4.0 g, 36% | C1(CC1)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C16H16O
